US04988681
Production of pivaloyloxymethyl (Z)-3-cyclohexyl-2-(hydroxyisobutylphosphinoyl)methylpropenoate
To a solution of 100 mg (0.347 millimole) of (Z)-3-cyclohexyl-2-(hydroxyisobutylphosphinoyl)methylpropenoic acid in 1.0 ml of dimethylformamide were added 130 μl (0.87 millimole) of 1,8-diazabicyclo[5,4,0]-7-undecene and 75 μl (0.52 millimole) of chloromethyl pivalate, and the mixture was stirred at room temperature for 21 hours. Fifty milliliters of a saturated aqueous solution of ammonium chloride was added to the reaction mixture, and the mixture was extracted three times with 30 ml of ethyl acetate each time. The combined organic layers were washed with 10 ml of a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by preparative thin-layer chromatography silica gel 60 F254 made by E. Merck & Co.; dichloromethane/methanol/acetic acid [30:1:1)] to give 90 mg (yield 64%) of the captioned compound as a colorless oil.

reactant | (Z)-3-cyclohexyl-2-(hydroxyisobutylphosphinoyl)methylpropenoic acid | 0.347 millimole, 100 mg | C1(CCCCC1)\C=C(\C(=O)O)/CP(=O)(CC(C)C)O | C14H25O4P
reactant | 1,8-diazabicyclo[5,4,0]-7-undecene | 0.87 millimole, 130 μl | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | chloromethyl pivalate | 0.52 millimole, 75 μl | C(C(C)(C)C)(=O)OCCl | C6H11ClO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane methanol acetic acid | ClCCl.CO.C(C)(=O)O
product | pivaloyloxymethyl (Z)-3-cyclohexyl-2-(hydroxyisobutylphosphinoyl)methylpropenoate | 90 mg, yield 64% | C1(CCCCC1)\C=C(\C(=O)OCOC(C(C)(C)C)=O)/CP(=O)(CC(C)C)O | C20H35O6P
